US04879398
2,6-Dimethyl-(S)-Tyrosine hydrochloride was prepared by deprotecting N-acetyl-2,6-dimethy-(S)-tyrosine methyl ester as follows: In a 100 ml round-bottom flask was placed 3.40 g (13 mmol) of N-acetyl-2,6-dimethyl-(S)-tyrosine methyl ester and 20 mL of 6N hydrochloric acid. The reaction mixture was refluxed under argon for 41/2 hours, cooled and then concentrated under reduced pressure to afford 3.48 g of a white solid; 1H NMR analysis indicated: (δ, CD3OD) 6.35 (s, 2H), 3.90 (t, J=7 Hz, 1H), 3.3-3.0 (m, 2H) and 2.21 (s, 6H). Mass spectrum analysis indicated: (m/e) 209 (M+), 135 (100%) and 91.

reactant | N-acetyl-2,6-dimethy-(S)-tyrosine methyl ester | COC([C@@H](NC(C)=O)CC1=C(C=C(C=C1C)O)C)=O | C14H19NO4
reactant | N-acetyl-2,6-dimethyl-(S)-tyrosine methyl ester | 13 mmol, 3.40 g | COC([C@@H](NC(C)=O)CC1=C(C=C(C=C1C)O)C)=O | C14H19NO4
reactant | hydrochloric acid | 6N, 20 mL | Cl | ClH
product | 2,6-Dimethyl-(S)-Tyrosine hydrochloride | Cl.CC1=C(C[C@H](N)C(=O)O)C(=CC(=C1)O)C | InChI=1S/C11H15NO3.ClH/c1-6-3-8(13)4-7(2)9(6)5-10(12)11(14)15;/h3-4,10,13H,5,12H2,1-2H3,(H,14,15);1H/t10-;/m0./s1
